US06509329B1
Synthesis of N,N′-bis[[5-(3,4,5-Trimethoxyphenyl)pyridin-3-yl]methyl]piperazine
3-Chloromethyl-5-(3,4,5-trimethoxyphenyl)pyridine (70 mg) and piperazine (10 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 3-Chloromethyl-5-(3,4,5-trimethoxyphenyl)pyridine | 70 mg | ClCC=1C=NC=C(C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
reactant | piperazine | 10 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[[5-(3,4,5-Trimethoxyphenyl)pyridin-3-yl]methyl]piperazine | COC=1C=C(C=C(C1OC)OC)C=1C=C(C=NC1)CN1CCN(CC1)CC=1C=NC=C(C1)C1=CC(=C(C(=C1)OC)OC)OC | C34H40N4O6
